US07855293B2
1-(4-acetoxybutyl)-2-methyl benzothiazolium iodide (2f)
10 mmol (1.49 g) 2-methyl-benzothiazole and 10 mmol (2.42 g) 4-iodobutylacetate are heated for 4 h at 120° C. and after cooling mixed with ether sucked off, again washed with ether and dried in vacuum.

reactant | 2-methyl-benzothiazole | 10 mmol, 1.49 g | CC=1SC2=C(N1)C=CC=C2 | C8H7NS
reactant | 4-iodobutylacetate | 10 mmol, 2.42 g | ICCCCOC(C)=O | C6H11IO2
solvent | ether | CCOCC | C4H10O
product | 1-(4-acetoxybutyl)-2-methyl benzothiazolium iodide | [I-].C(C)(=O)OCCCCS1C(=[NH+]C2=C1C=CC=C2)C | InChI=1S/C14H19NO2S.HI/c1-11-15-13-7-3-4-8-14(13)18(11)10-6-5-9-17-12(2)16;/h3-4,7-8,18H,5-6,9-10H2,1-2H3;1H
